US08304434B2
3-[4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidin-1-yl]quinoline
To a 10 ml vial was added 4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine (30 mg, 0.089 mmol), quinolin-3-ylboronic acid (62 mg, 0.358 mmol), copper acetate (32.5 mg, 0.179 mmol), diisopropylethyl amine (0.049 ml, 0.358 mmol) and 1 ml tetrahydrofuran. The resulting reaction mixture was stirred at room temperature for one hour then 60° C. 3 hours. After aqueous work up, the crude product was purified on reverse phase column eluted with water/acetonitrile gradient solvent to give 24 mg desired product as fluffy white solid after lyophilizing.

reactant | 4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine | 0.089 mmol, 30 mg | CC(C)(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C1CCNCC1 | C15H20F3NO2S
reactant | quinolin-3-ylboronic acid | 0.358 mmol, 62 mg | N1=CC(=CC2=CC=CC=C12)B(O)O | C9H8BNO2
reactant | diisopropylethyl amine | 0.358 mmol, 0.049 ml | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | copper acetate | 0.179 mmol, 32.5 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 3-[4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidin-1-yl]quinoline | 24 mg | CC(C)(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C1CCN(CC1)C=1C=NC2=CC=CC=C2C1 | C24H25F3N2O2S
